US07098289B2
A three-necked-flask stirring apparatus with mechanical stirrer, internal thermometer and reflux condenser was charged under dry nitrogen with 200 ml of dry methanol and 45 ml of a 30% strength methanolic solution of sodium methoxide, corresponding to 0.25 mol of sodium methoxide. 17.4 g (0.25 mol) of 1,2,4-triazole was added thereto in portions at room temperature. After the end of addition of the 1,2,4-triazole the reaction mixture was stirred at reflux temperature for 4 h. The solvent was subsequently distilled off under reduced pressure and the oily residue which remained was admixed at room temperature with 200 ml of methylene chloride. The mixture was stirred at room temperature for 15 min and the precipitated solid product was filtered off. This gave 22.5 g of sodium 1,2–4-triazolate (yield: 98% of theory) in the form of a colourless powder. The product was pure according to its 1H-NMR spectrum and free of the 1,2,4-triazole used.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium methoxide | 0.25 mol | C[O-].[Na+]
reactant | 1,2,4-triazole | 0.25 mol, 17.4 g | N1N=CN=C1 | C2H3N3
reactant | methanol | 200 ml | CO | CH4O
product | sodium 1,2–4-triazolate | 22.5 g, yield: 98% | N1N=C(N=C1)C(=O)[O-].[Na+] | InChI=1S/C3H3N3O2.Na/c7-3(8)2-4-1-5-6-2;/h1H,(H,7,8)(H,4,5,6);/q;+1/p-1
